US07517875B2
After dissolving 2-[(1-tert-butoxycarbonyl-piperidin-4-ylmethyl)-amino]-1H-benzimidazole-4-carboxylic acid methyl ester (5.47 g, 14.1 mmol) in methanol (60 ml), an aqueous lithium hydroxide solution (4 mol/L, 20 ml, 80 mmol) was added and the mixture was stirred at 50° C. overnight. The reaction mixture was cooled in an ice bath, and 6N hydrochloric acid (5 ml) was added dropwise. Stirring was continued for 1 hour in an ice bath while gradually adding 1N hydrochloric acid to adjust the pH to approximately 7.5. The precipitate was filtered out and washed with ethyl acetate and water. It was then dried under reduced pressure to obtain 2-[(1-tert-butoxycarbonyl-piperidin-4-ylmethlyl)-amino]-1H-benzimidazole-4-carboxylic acid. The compound was identified by LC-MS.

reactant | 2-[(1-tert-butoxycarbonyl-piperidin-4-ylmethyl)-amino]-1H-benzimidazole-4-carboxylic acid methyl ester | 14.1 mmol, 5.47 g | COC(=O)C1=CC=CC=2NC(=NC21)NCC2CCN(CC2)C(=O)OC(C)(C)C | C20H28N4O4
reactant | lithium hydroxide | 80 mmol, 4 mol/L, 20 ml | [OH-].[Li+]
reactant | hydrochloric acid | 6N, 5 ml | Cl | ClH
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | methanol | 60 ml | CO | CH4O
product | 2-[(1-tert-butoxycarbonyl-piperidin-4-ylmethlyl)-amino]-1H-benzimidazole-4-carboxylic acid | C(C)(C)(C)OC(=O)N1CCC(CC1)C=NC1=NC2=C(N1)C=CC=C2C(=O)O | C19H24N4O4
